US07964608B2
1-Cyclopentyl-3-(3,5-dimethyl-isoxazol-4-yl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (17 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 4-isocyanato-3,5-dimethyl-isoxazole (0.05 mmol) following general procedure C. LCMS: m/z 407 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 4-isocyanato-3,5-dimethyl-isoxazole | 0.05 mmol | N(=C=O)C=1C(=NOC1C)C | C6H6N2O2
product | 1-Cyclopentyl-3-(3,5-dimethyl-isoxazol-4-yl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 17 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C=2C(=NOC2C)C)=O | C22H22N4O4
